US07642264B2
2-Methyl-6-(3-pyridin-4-yl-phenyl)-4-(4-trifluoromethyl-phenyl)-pyridine
The title compound was prepared from trifluoro-methanesulfonic acid 6-methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl ester (example A.32) (0.250 g, 0.65 mmol) and 3-pyridin-4-yl-benzeneboronic acid [CAS-No. 337536-25-1] (0.143 g, 0.71 mmol) according to the general procedure VI. Obtained as a white solid (0.101 g, 40%). MS (ISP) 391.1 [(M+H)+]; mp 143-147° C.

reactant | trifluoro-methanesulfonic acid 6-methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl ester | 0.65 mmol, 0.250 g | CC1=CC(=CC(=N1)OS(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C14H9F6NO3S
reactant | 3-pyridin-4-yl-benzeneboronic acid | 0.71 mmol, 0.143 g | N1=CC=C(C=C1)C=1C=C(C=CC1)B(O)O | C11H10BNO2
product | 2-Methyl-6-(3-pyridin-4-yl-phenyl)-4-(4-trifluoromethyl-phenyl)-pyridine | CC1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC(=CC=C1)C1=CC=NC=C1 | C24H17F3N2
